US07932262B2
Synthesis of 4-(8-(6-fluoropyridin-3-yloxy)quinazolin-2-ylamino)benzenesulfonamide (Compound 413)
To a 0.13 M solution of the 2-chloro-8-(6-fluoropyridin-3-yloxy)quinazoline and 2-bromo-8-(6-fluoropyridin-3-yloxy)quinazoline mixture in i-PrOH was added sulfanilamide (1.0 eq.) and the solution was heated to refluxed for 12 hr. Cooled to room temperature and the precipitate was filtered off and washed with i-PrOH to give the desired product in 61% yield. The solid was 96% pure by HPLC. ES/MS m/z 412.0 (MH+) for 595644-4-(8-(6-fluoropyridin-3-yloxy)quinazolin-2-ylamino)benzenesulfonamide.

reactant | 2-chloro-8-(6-fluoropyridin-3-yloxy)quinazoline | ClC1=NC2=C(C=CC=C2C=N1)OC=1C=NC(=CC1)F | C13H7ClFN3O
reactant | 2-bromo-8-(6-fluoropyridin-3-yloxy)quinazoline | BrC1=NC2=C(C=CC=C2C=N1)OC=1C=NC(=CC1)F | C13H7BrFN3O
reactant | sulfanilamide | 1.0 eq. | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(8-(6-fluoropyridin-3-yloxy)quinazolin-2-ylamino)benzenesulfonamide | 61% yield | FC1=CC=C(C=N1)OC=1C=CC=C2C=NC(=NC12)NC1=CC=C(C=C1)S(=O)(=O)N | C19H14FN5O3S
